US04226861
N-Methyl 3-(3-aminocarbonylphenoxy)-1-azetidinecarboxamide
To a stirring solution of 7.0 g. (0.036 mole) of 3-(3-azetidinyloxy)benzamide in 75 ml. of dry benzene was slowly added 2.0 g. (0.036 mole) of methylisocyanate. Stirring was continued at room temperature for one hour. The solid which separated was filtered and recrystallized from 60% ethanol. The product weighed 6.0 g. (67%) and melted at 238°-240° C.

reactant | 3-(3-azetidinyloxy)benzamide | 0.036 mole | N1CC(C1)OC=1C=C(C(=O)N)C=CC1 | C10H12N2O2
reactant | methylisocyanate | 0.036 mole | CN=C=O | C2H3NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Methyl 3-(3-aminocarbonylphenoxy)-1-azetidinecarboxamide | CNC(=O)N1CC(C1)OC1=CC(=CC=C1)C(=O)N | C12H15N3O3
